US07414134B2
Step (i): Synthesis of methyl (S)-5-hydroxy-5,6,7,8-tetrahydronaphthalene-2-carboxylate (3)
To an oven-dried 2 L round-bottomed flask equipped with an argon inlet/outlet and magnetic stirring was added (R)-2-methyl-CBS-oxazaborolidine (7.4 mL of a 1M solution in toluene, 7.4 mmol, Aldrich). Toluene (190 mL) was added and the reaction mixture was cooled in an ice-salt bath (bath temp.=−10° C.). BH3—SMe2 was added (17 mL, 180 mmol, Aldrich), then 5-oxo-5,6,7,8-tetrahydro-naphthalene-2-carboxylic acid methyl ester (30 g, 150 mmol, Albany Molecular) in 200 mL of THF was added over 5 h using a syringe pump. After the addition was complete, the reaction mixture was stirred for an additional 1 h. The reaction mixture was poured into an addition funnel, and then added to 200 mL of MeOH, cooled in a ice-salt bath, over 30 min at such a rate that the internal temperature was kept below 0° C. The mixture was concentrated in vacuo. Et2O (1 L) was added, and the mixture was washed with 1M H3PO4 (3×), 5% NaHCO3, and brine (ca. 400 mL each wash). The organic layer was dried over MgSO4, filtered and concentrated in vacuo. The residue was dissolved in Et2O again (500 mL), and the mixture was washed with 1M H3PO4 (3×200 mL), satd NaHCO3, and brine. After drying the organic layer over MgSO4, the mixture was filtered and concentrated in vacuo, which gave the title compound as a white-yellow solid. MS (+ion ESI) m/z =207 (MH+), 189 (MH+-H2O).

reactant | (R)-2-methyl-CBS-oxazaborolidine | B1(N2CCC[C@@H]2C(O1)(C3=CC=CC=C3)C4=CC=CC=C4)C | C18H20BNO
reactant | 5-oxo-5,6,7,8-tetrahydro-naphthalene-2-carboxylic acid methyl ester | 150 mmol, 30 g | COC(=O)C1=CC=2CCCC(C2C=C1)=O | C12H12O3
reactant | MeOH | 200 mL | CO | CH4O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | Toluene | 190 mL | C1(=CC=CC=C1)C | C7H8
product | methyl (S)-5-hydroxy-5,6,7,8-tetrahydronaphthalene-2-carboxylate | O[C@@H]1C=2C=CC(=CC2CCC1)C(=O)OC | C12H14O3
